US07592373B2
3.18.b. 4-(4-aminobenzyl)piperidin-4-ol
6.6 g of Raney nickel is added to a solution of 66.45 g (0.281 mol) of 4-(4-nitrobenzyl)piperidin-4-ol in 660 mL of methanol. The reaction mixture is hydrogenated for 13 hours at ambient temperature and 3 bar hydrogen. The catalyst is filtered off and the filtrate is evaporated down. Yield: 64.5 g (111% of theory); C12H18N2O (M=206.28); calc.: molecular ion peak (M+H)+: 207; found: molecular ion peak (M+H)+: 207.

reactant | 4-(4-nitrobenzyl)piperidin-4-ol | 0.281 mol, 66.45 g | [N+](=O)([O-])C1=CC=C(CC2(CCNCC2)O)C=C1 | C12H16N2O3
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 6.6 g | [Ni] | Ni
solvent | methanol | 660 mL | CO | CH4O
product | 4-(4-aminobenzyl)piperidin-4-ol | NC1=CC=C(CC2(CCNCC2)O)C=C1 | C12H18N2O
